US07635715B2
A solution of ethyl 1-benzyl-4-(4-chloro-2-(3,3,3-triethoxyprop-1-ynyl)phenyl)piperidine-4-carboxylate (820 mg, 1.5 mmol) and p-toluenesulfonic acid monohydrate (443 mg, 2.3 mmol) in EtOH (25 mL) and water (5 mL) was stirred at 23° C. After 30 minutes, the solvents were removed in vacuo, and the residue was diluted with EtOAc (200 mL) and washed with 10% HCl solution (100 mL), saturated NaHCO3 solution (100 mL) and brine (100 mL), dried over MgSO4, and concentrated in vacuo affording 620 mg of ethyl 1-benzyl-4-(4-chloro-2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)piperidine-4-carboxylate. MS m/e=454.1 (M+H)+.

reactant | ethyl 1-benzyl-4-(4-chloro-2-(3,3,3-triethoxyprop-1-ynyl)phenyl)piperidine-4-carboxylate | 1.5 mmol, 820 mg | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)C1=C(C=C(C=C1)Cl)C#CC(OCC)(OCC)OCC | C30H38ClNO5
reactant | p-toluenesulfonic acid monohydrate | 2.3 mmol, 443 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | water | 5 mL | O | H2O
product | ethyl 1-benzyl-4-(4-chloro-2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)piperidine-4-carboxylate | 620 mg | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)C1=C(C=C(C=C1)Cl)C#CC(=O)OCC | C26H28ClNO4
